US04192872
A mixture of 3.0 g (0.0095 mole) of 6-chloro-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine, 5.5 g (0.04 mole) of potassium carbonate and 1.15 g (0.0095 mole) of allyl bromide in 80 ml of dry dimethylformamide was refluxed for 45 minutes, filtered and the filtrate evaporated to dryness. The residue was dissolved in ethyl acetate, washed with water and dried and concentrated to the light yellow oil (2.46 g, 78%). T.l.c. (10% methanol in chloroform) showed no starting material. The crude benzazepine was dissolved in 50 ml of dry methylene chloride and treated dropwise at -15° to -10° with 4.5 g (0.018 mole) of boron tribromide in 25 ml of dry methylene chloride. After being stirred at 0° for 2 hours, then at room temperature for one hour, the reaction was recooled, treated with excess methanol and evaporated to a tan solid. The crude product was dissolved in a little 2-propanol, diluted with ether and chilled to give 1.25 g (52%) of white 3-allyl-6-chloro-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide; m.p. 200°-201°.

reactant | 6-chloro-7,8-dimethoxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0095 mole, 3.0 g | ClC1=C(C(=CC=2C(CNCCC21)C2=CC=CC=C2)OC)OC | C18H20ClNO2
reactant | potassium carbonate | 0.04 mole, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.0095 mole, 1.15 g | C(C=C)Br | C3H5Br
reactant | boron tribromide | 0.018 mole, 4.5 g | B(Br)(Br)Br | BBr3
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-allyl-6-chloro-7,8-dihydroxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | 1.25 g, 52% | Br.C(C=C)N1CCC2=C(C(C1)C1=CC=CC=C1)C=C(C(=C2Cl)O)O | InChI=1S/C19H20ClNO2.BrH/c1-2-9-21-10-8-14-15(11-17(22)19(23)18(14)20)16(12-21)13-6-4-3-5-7-13;/h2-7,11,16,22-23H,1,8-10,12H2;1H
